US06576627B1
4-Oxohexanoic acid (56.2 μl) was dissolved in methylene chloride (1.4 ml), and the solution was added with triethylamine (98.5 μl) and pivalic chloride (58.0 μl) and stirred under an argon atmosphere at room temperature for 15 minutes. The resulting mixture was added to a methylene chloride (1.4 ml) solution of the crude benzyl (S)-2-((1-amino-2-methylpropyl)(benzyloxyphosphinoyl)oxy)-6-benzyloxycarbonylaminohexanate (140.5 mg) obtained in the step (e) of Example 24, and the mixture was further stirred at room temperature for 4 hours. Saturated aqueous ammonium chloride was added to the mixture, and then the organic substances were extracted with ethyl acetate and the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (15 g, hexane:acetone=3:1) to obtain benzyl (S)-6-benzyloxycarbonylamino-2-((2-methyl-1-(5-oxohexanoylamino)propyl)(benzyloxyphosphinoyl)oxy)hexanoate (105.4 mg, 63.1%). This compound was subjected to the measurement of molecular weight and then used in the following reaction without further purification.

reactant | 4-Oxohexanoic acid | 56.2 μl | O=C(CCC(=O)O)CC | C6H10O3
reactant | pivalic chloride | 58.0 μl | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | benzyl (S)-2-((1-amino-2-methylpropyl)(benzyloxyphosphinoyl)oxy)-6-benzyloxycarbonylaminohexanate | 140.5 mg | NC(C(C)C)P(=O)(O[C@H](C(=O)OCC1=CC=CC=C1)CCCCNC(=O)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C32H41N2O7P
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 1.4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.4 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 98.5 μl | C(C)N(CC)CC | C6H15N
product | benzyl (S)-6-benzyloxycarbonylamino-2-((2-methyl-1-(5-oxohexanoylamino)propyl)(benzyloxyphosphinoyl)oxy)hexanoate | 105.4 mg, 63.1% | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(=O)OCC1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)C(C(C)C)NC(CCCC(C)=O)=O | C38H49N2O9P
